US06670372B2
Propargyl bromide (10.0 ml, 89.8 mmol, 80% in toluene) and benzyltrimethylammonium chloride (0.60 g, 3.2 mmol) were dissolved in dichloromethane (130 ml). The solution was treated with sodium hydroxide (130 ml, 50% w/w in water). 2-[2-(2-Methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethanol (20.0 g, 73.7 mmol) was added and the mixture was vigorously stirred for 18 hours. Thin layer chromatography (9/1 chloroform/methanol) indicated complete conversion. The mixture was diluted with water (200 ml) and the phases were separated. The aqueous fraction was extracted with additional dichloromethane (3×150 ml). The combined organic fractions were washed with brine (100 ml), dried (Na2SO4), filtered and concentrated to yield 22.7 g of 2-(2-methoxyethyl)-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline as an orange solid.

reactant | Propargyl bromide | 89.8 mmol, 10.0 ml | C(C#C)Br | C3H3Br
reactant | sodium hydroxide | 130 ml | [OH-].[Na+]
reactant | 2-[2-(2-Methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethanol | 73.7 mmol, 20.0 g | COCCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCO | C15H17N3O2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
catalyst | benzyltrimethylammonium chloride | 3.2 mmol, 0.60 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 2-(2-methoxyethyl)-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline | 22.7 g | COCCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCC#C | C18H19N3O2
